US04981856
The quinazolinone used as starting material was obtained using the first part of the process described in Example 1 concerning the preparation of starting materials except that 2,4-dimethylacetanilide was used in place of 3,4-dimethylacetanilide. Only one isomer, 3,4-dihydro-2,6,8-trimethylquinazolin-4-one, was obtained. Sodium hydride (2.39 g) was added to a stirred suspension of the product thus obtained (9.3 g) in dimethylformamide (100 ml) and the mixture was stirred at laboratory temperature for 1 hour. A solution of chloromethyl pivalate (8.23 ml) in dimethylformamide (20 ml) was added and the mixture was stirred at laboratory temperature for 18 hours, then poured onto a mixture of ice water (350 ml). The precipitate was filtered off, dried and purified by chromatography on a silica gel column using methylene chloride as eluent. There was thus obtained 3,4-dihydro-2,6,8-trimethyl-3-pivaloyloxymethylquinazolin-4-one (8.7 g).

reactant | quinazolinone | C=1C=CC2=C(C1)C(=O)NC=N2 | C8H6N2O
reactant | 2,4-dimethylacetanilide | CC1=CC(=C(C=C1)NC(=O)C)C | C10H13NO
product | 3,4-dihydro-2,6,8-trimethylquinazolin-4-one | CC1=NC2=C(C=C(C=C2C(N1)=O)C)C | C11H12N2O
